US04632925
A mixture of 34.6 g of 7-octyn-1-ol 26.4 mL of 3-bromopyridine, 115 mL of triethylamine and 350 mL of dichloromethane was stirred and flushed with argon. To the mixture was added 3.85 g of bis triphenylphosphine palladium II chloride and 0.365 g of cuprous iodide and then the mixture was refluxed overnight. The cooled reaction mixture was diluted with ether and the solids were filtered, washed well with ether, and then discarded. The filtrates were extracted repeatedly with 1N hydrochloric acid and the combined aqueous layers were made strongly basic with excess sodium hydroxide. The mixture was extracted with dichloromethane, dried over sodium sulfate and evaporated to provide 51 g (91%) of crude 8-(3-pyridinyl)-7-octyn-1-ol. Catalytic hydrogenation in 1000 mL of ethanol using 5 g of 10% palladium on carbon provided, after distillation, 36 g (72%) of 3-pyridineoctanol, bp 145°-152° C. (0.3 mm). Analysis Calculated for C13H21NO: C, 75.32; H, 10.21; N, 6.76. Found: C, 75.13; H, 10.21; N, 6.66.

reactant | 7-octyn-1-ol | 26.4 mL, 34.6 g | C(CCCCCC#C)O | C8H14O
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | triethylamine | 115 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 8-(3-pyridinyl)-7-octyn-1-ol | 51 g, 91% | N1=CC(=CC=C1)C#CCCCCCCO | C13H17NO
